US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 4-methylmercaptoaniline to yield 2-[(4-methylmercaptophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 4-methylmercaptoaniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | 2-[(4-methylmercaptophenyl)amino]phenylacetic acid | CSC1=CC=C(C=C1)NC1=C(C=CC=C1)CC(=O)O | C15H15NO2S
